US06096758
C5. 2-Pyridinylmethyl (2-chloromethyl-3-methylphenyl)carbamate
A solution of 2-chloromethyl-1-isocyanato-3-methylbenzene (2.5 g) and 2-hydroxymethylpyridine (1.5 g) in dichloromethane (25 ml) is stirred at RT for 16 h. By concentration on a rotary evaporator (bath temperature 22° C.) and subsequent chromatography on silica gel (eluent: dichloromethane/methanol 13:1), a solution of the title compound is obtained which is concentrated (not crystallization, but decomposition) on a rotary evaporator. (bath temperature 22° C.). The crude product of the title compound obtained is immediately reacted further.

reactant | 2-chloromethyl-1-isocyanato-3-methylbenzene | 2.5 g | ClCC1=C(C=CC=C1C)N=C=O | C9H8ClNO
reactant | 2-hydroxymethylpyridine | 1.5 g | OCC1=NC=CC=C1 | C6H7NO
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 2-Pyridinylmethyl (2-chloromethyl-3-methylphenyl)carbamate | ClCC1=C(C=CC=C1C)NC(OCC1=NC=CC=C1)=O | C15H15ClN2O2
